US08859504B2
To a solution of L-lactic acid (0.675 g, 7.34 mmol) in EtOAc (3.0 mL) with an internal temperature of about 70° C. was added a solution of N,N′,N″-{boroxin-2,4,6-triyltris[[(1R)-3-methylbutane-1,1-diyl]imino(2-oxoethane-2,1-diyl)]}tris(2,5-dichlorobenzamide) (2.50 g, 2.43 mmol) in EtOAc (7.5 mL). The solution was cooled uncontrolled until the internal temperature was about 60° C. After 30 min, heptane (11.5 mL) was added until the solution became turbid. The suspension was heated until the internal temperature was at or about 70° C., at which point a homogenous solution resulted. The solution was cooled at a rate of 0.17° C./min until the internal temperature was about 30° C., then cooled uncontrolled until the internal temperature was about 0° C. The resulting precipitate was collected by filtration to yield 2,5-dichloro-N-[2-({(1R)-3-methyl-1-[(4S)-4-methyl-5-oxo-1,3,2-dioxaborolan-2-yl]butyl}amino)-2-oxoethyl]benzamide as a white, crystalline solid (2.32 g, 81%). MS (m/z) in CH3CN: [M+Et3N+H] calculated for C23H37BCl2N3O5, 515.9. found, 516.0. MS (m/z) in CH3CN: [M−H] calculated for C17H20BCl2N2O5, 413.1. found 413.0.

reactant | L-lactic acid | 7.34 mmol, 0.675 g | C([C@@H](O)C)(=O)O | C3H6O3
reactant | N,N′,N″-{boroxin-2,4,6-triyltris[[(1R)-3-methylbutane-1,1-diyl]imino(2-oxoethane-2,1-diyl)]}tris(2,5-dichlorobenzamide) | 2.43 mmol, 2.50 g | O1B(OB(OB1[C@H](CC(C)C)NC(CNC(C1=C(C=CC(=C1)Cl)Cl)=O)=O)[C@H](CC(C)C)NC(CNC(C1=C(C=CC(=C1)Cl)Cl)=O)=O)[C@H](CC(C)C)NC(CNC(C1=C(C=CC(=C1)Cl)Cl)=O)=O | C42H51B3Cl6N6O9
reactant | heptane | 11.5 mL | CCCCCCC | C7H16
solvent | EtOAc | 3.0 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 7.5 mL | CCOC(=O)C | C4H8O2
product | 2,5-dichloro-N-[2-({(1R)-3-methyl-1-[(4S)-4-methyl-5-oxo-1,3,2-dioxaborolan-2-yl]butyl}amino)-2-oxoethyl]benzamide | ClC1=C(C(=O)NCC(=O)N[C@@H](CC(C)C)B2OC([C@@H](O2)C)=O)C=C(C=C1)Cl | C17H21BCl2N2O5
